datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"Cc1ccc([O:21][H:20])cc1Cc1cc([N+](=O)[O-])ccc1[O-].Cc1ccccc1/[N:10]=C\N(C)C>>Cc1ccc([O-:21])cc1Cc1cc([N+](=O)[O-])ccc1[O-].Cc1ccccc1/[N+:10](=C\N(C)C)[H:20] 10=20;20,21=21",
"CC1=C(Br)C=CC(=O)C([O-:10])=C1.Cc1cc(C2(c3ccc([O:21][H:20])c(C)c3)OS(=O)(=O)c3c(Br)c(Br)c(Br)c(Br)c32)ccc1O>>CC1=C(Br)C=CC(=O)C([O:10][H:20])=C1.Cc1cc(C2(c3ccc([O-:21])c(C)c3)OS(=O)(=O)c3c(Br)c(Br)c(Br)c(Br)c32)ccc1O 10=20;20,21=21",
"N#C[CH:21](C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1)[H:20].O=C([O-])C1CCCC[NH:10]1>>N#C[CH-:21]C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1.O=C([O-])C1CCCC[NH+:10]1[H:20] 10=20;20,21=21",
"N#CCCNC(CC(N)=O)C(=O)[O:21][H:20].O=C1O[C@@H]([C@H](O)[C@@H](O)[C@@H](O)CO)C([O-])=C1[O-:10]>>N#CCCNC(CC(N)=O)C(=O)[O-:21].O=C1O[C@@H]([C@H](O)[C@@H](O)[C@@H](O)CO)C([O-])=C1[O:10][H:20] 10=20;20,21=21",
"C[C@H](NC(=O)[C@@H]1CCC(=O)N1)C(=O)[O:21][H:20].O=[N+]([O-])c1cc(Cl)ccc1[Se][O-:10]>>C[C@H](NC(=O)[C@@H]1CCC(=O)N1)C(=O)[O-:21].O=[N+]([O-])c1cc(Cl)ccc1[Se][O:10][H:20] 10=20;20,21=21",
"O=C1C=C(c2ccc([O:21][H:20])cc2)Oc2ccccc21.c1n[nH]cc1[NH2:10]>>O=C1C=C(c2ccc([O-:21])cc2)Oc2ccccc21.c1n[nH]cc1[NH2+:10][H:20] 10=20;20,21=21",
"C[N:10](C)CC#N.OCn1c[n+:21]([H:20])c2ccccc21>>C[N+:10](C)(CC#N)[H:20].OCn1c[n:21]c2ccccc21 10=20;20,21=21",
"CCCc1cccn[n:10]1.CC[N+:21](CC)(C(C)C=C(c1cccs1)c1cccs1)[H:20]>>CCCc1cccn[n+:10]1[H:20].CC[N:21](CC)C(C)C=C(c1cccs1)c1cccs1 10=20;20,21=21",
"CC(=O)C(C)C(C)(C)C(=O)[O:21][H:20].O=C1[C@H]2C[C@H](C[N:10]3CCCC=C23)[C@@H]2CCCCN12>>CC(=O)C(C)C(C)(C)C(=O)[O-:21].O=C1[C@H]2C[C@H](C[N+:10]3([H:20])CCCC=C23)[C@@H]2CCCCN12 10=20;20,21=21",
"CCCCC[NH:10]Cc1ccccc1O.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CCCCC[NH+:10](Cc1ccccc1O)[H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"C#CCCC(=O)[O:21][H:20].C/C(=C\c1cc(C(C)(C)C)c([O-:10])c(C(C)(C)C)c1)C(=O)[O-]>>C#CCCC(=O)[O-:21].C/C(=C\c1cc(C(C)(C)C)c([O:10][H:20])c(C(C)(C)C)c1)C(=O)[O-] 10=20;20,21=21",
"CCOC(=O)CC(c1ccccc1)[NH+:21](C)[H:20].[NH3+][C@H]1CC(=O)N(CCCC[C@H]([NH3+])C(=O)[O-:10])C1=O>>CCOC(=O)CC(c1ccccc1)[NH:21]C.[NH3+][C@H]1CC(=O)N(CCCC[C@H]([NH3+])C(=O)[O:10][H:20])C1=O 10=20;20,21=21",
"CO[C@H]1C=CC2=CC[N+:21]3([H:20])CC[C@H](CO)C(=CCO)[C@]23C1.[NH3+]Cc1ccc([NH2:10])cc1>>CO[C@H]1C=CC2=CC[N:21]3CC[C@H](CO)C(=CCO)[C@]23C1.[NH3+]Cc1ccc([NH2+:10][H:20])cc1 10=20;20,21=21",
"COc1c(Cl)cc(Cl)c([O-:10])c1C(=O)NC1CC[NH+](C)CC1.Cc1cc(Cl)ccc1[O:21][H:20]>>COc1c(Cl)cc(Cl)c([O:10][H:20])c1C(=O)NC1CC[NH+](C)CC1.Cc1cc(Cl)ccc1[O-:21] 10=20;20,21=21",
"C=C(C)[C@H]1C[NH2+][C@H](C(=O)[O-])[C@H]1CC(=O)[O-:10].C[N+:21](C)(CCC(c1ccccc1)c1ccccc1)[H:20]>>C=C(C)[C@H]1C[NH2+][C@H](C(=O)[O-])[C@H]1CC(=O)[O:10][H:20].C[N:21](C)CCC(c1ccccc1)c1ccccc1 10=20;20,21=21",
"Cn1cc([NH3+])cc1C(=O)[O:21][H:20].[NH3+]c1cccc(C(=O)N[NH2:10])c1>>Cn1cc([NH3+])cc1C(=O)[O-:21].[NH3+]c1cccc(C(=O)N[NH2+:10][H:20])c1 10=20;20,21=21",
"CC(=O)c1c(C(=O)[O-:10])cccc1[N+](=O)[O-].O=C(c1ccccc1)N(c1ccccc1)[O:21][H:20]>>CC(=O)c1c(C(=O)[O:10][H:20])cccc1[N+](=O)[O-].O=C(c1ccccc1)N(c1ccccc1)[O-:21] 10=20;20,21=21",
"O=[N+]([O-])/C(=N/[O-:10])c1ccc(Cl)cc1.c1ccc(Cc2cc(-c3ccccc3)n[n+:21]([H:20])c2NCC[NH+]2CCOCC2)cc1>>O=[N+]([O-])/C(=N/[O:10][H:20])c1ccc(Cl)cc1.c1ccc(Cc2cc(-c3ccccc3)n[n:21]c2NCC[NH+]2CCOCC2)cc1 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].CCC(C)(C)[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.CCC(C)(C)[NH2+:10][H:20] 10=20;20,21=21",
"[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O.c1ccc(C[NH:10]C(CC2CCCCC2)CC2CCCCC2)cc1>>[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O.c1ccc(C[NH+:10](C(CC2CCCCC2)CC2CCCCC2)[H:20])cc1 10=20;20,21=21",
"C[NH+](C)c1ccc([N:10](C)C)cc1.c1ncc2cc([O:21][H:20])ccc2n1>>C[NH+](C)c1ccc([N+:10](C)(C)[H:20])cc1.c1ncc2cc([O-:21])ccc2n1 10=20;20,21=21",
"C1=C(c2ccco2)C2CC[N+:21]1([H:20])CC2.COc1ccc(S(=O)(=O)CC[N:10]2CCCCC2)c(OC)c1OC>>C1=C(c2ccco2)C2CC[N:21]1CC2.COc1ccc(S(=O)(=O)CC[N+:10]2([H:20])CCCCC2)c(OC)c1OC 10=20;20,21=21",
"CC(C)(C)[NH:10]C1CCCCC1.C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1>>CC(C)(C)[NH+:10](C1CCCCC1)[H:20].C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"O=C([O-])C1CCC[NH:10]1.[H][C:21](C(C)=O)(C(C)=O)[H:20]>>O=C([O-])C1CCC[NH+:10]1[H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"O=[N+]([O-])[N-]c1nnn[n:21]1[H:20].OC(=C1SCc2ccccc21)[O-:10]>>O=[N+]([O-])[N-]c1nnn[n-:21]1.OC(=C1SCc2ccccc21)[O:10][H:20] 10=20;20,21=21",
"C[NH:10]C(CO)CO.O=[N+]([O-])c1nc(-n2cncn2)[n:21]([H:20])n1>>C[NH+:10](C(CO)CO)[H:20].O=[N+]([O-])c1nc(-n2cncn2)[n-:21]n1 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].CSCC[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.CSCC[NH2+:10][H:20] 10=20;20,21=21",
"CC(Cc1ccccc1)[NH2:10].CCN1C=CC=C([O:21][H:20])C1=O>>CC(Cc1ccccc1)[NH2+:10][H:20].CCN1C=CC=C([O-:21])C1=O 10=20;20,21=21",
"CC1CCCC(C)(C)[NH:10]1.N#CC1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>CC1CCCC(C)(C)[NH+:10]1[H:20].N#CC1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
